US04562068
Fifteen grams (92 m mol) of fumaric acid monomethyl ester chloride were added dropwise under stirring over a period of 25 minutes to a mixture of 200 ml of chlorobenzene and 18.4 gm (138 m mol) of aluminum chloride at 20° C. After heating for 45 minutes at 40° C., the mixture was cooled, poured on ice/water containing 30 ml of concentrated hydrochloric acid, and taken up in methylene chloride, and the solution was evaporated (under reduced pressure toward the end). The residue was recrystallized from petroleum ether, and 5.7 gm of pure 4-(4'-chlorophenyl)-4-oxo-but-2-enoic acid ethyl ester (melting point: 58°-60° C.) were obtained.

reactant | fumaric acid monomethyl ester chloride | Fifteen grams | [Cl-].COC(\C=C\C(=O)O)=O
reactant | chlorobenzene | 200 ml | ClC1=CC=CC=C1 | C6H5Cl
reactant | aluminum chloride | 18.4 gm | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-(4'-chlorophenyl)-4-oxo-but-2-enoic acid ethyl ester | 5.7 gm | C(C)OC(C=CC(=O)C1=CC=C(C=C1)Cl)=O | C12H11ClO3
